US04451473
9.9 g of 3,7-diethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol are reacted with 4-chloro-benzoyl chloride as described in Example 8 to obtain 3,7-diethyl-9-(4'-chloro-benzoyloxy)-3,7-diazabicyclo[3.3.1]nonane dihydrochloride monohydrate with a yield of 53.8%; m.p.: 116°-120° C.

reactant | 3,7-diethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol | 9.9 g | C(C)N1CC2CN(CC(C1)C2O)CC | C11H22N2O
reactant | 4-chloro-benzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 3,7-diethyl-9-(4'-chloro-benzoyloxy)-3,7-diazabicyclo[3.3.1]nonane dihydrochloride monohydrate | yield of 53.8% | O.Cl.Cl.C(C)N1CC2CN(CC(C1)C2OC(C2=CC=C(C=C2)Cl)=O)CC | InChI=1S/C18H25ClN2O2.2ClH.H2O/c1-3-20-9-14-11-21(4-2)12-15(10-20)17(14)23-18(22)13-5-7-16(19)8-6-13;;;/h5-8,14-15,17H,3-4,9-12H2,1-2H3;2*1H;1H2
